US08217044B2
To a solution of 3-methoxy-4-nitrophenol (1 g, 5.9 mmol) in anhydrous DMF (25 mL) were added K2CO3 (2.45 g, 17.7 mmol) and (2-bromoethoxy)(tert-butyl)dimethylsilane (1.7 g, 7.1 mmol) sequentially. The reaction mixture was heated at 70° C. for 20 h. The mixture was cooled to room temperature, and diluted with water. The mixture was extracted with ethyl acetate three times. The combined organic extract was washed with water, brine, dried over MgSO4, and concentrated. The residue was purified by chromatography (0-20% EtOAc in hexanes) to give tert-butyl-[2-(3-methoxy-4-nitro-phenoxy)-ethoxy]-dimethyl-silane as a light yellow oil (1.0 g, 52%).

reactant | 3-methoxy-4-nitrophenol | 5.9 mmol, 1 g | COC=1C=C(C=CC1[N+](=O)[O-])O | C7H7NO4
reactant | K2CO3 | 17.7 mmol, 2.45 g | C(=O)([O-])[O-].[K+].[K+]
reactant | (2-bromoethoxy)(tert-butyl)dimethylsilane | 7.1 mmol, 1.7 g | BrCCO[Si](C)(C)C(C)(C)C | C8H19BrOSi
solvent | DMF | 25 mL | CN(C)C=O | C3H7NO
solvent | water | O | H2O
product | tert-butyl-[2-(3-methoxy-4-nitro-phenoxy)-ethoxy]-dimethyl-silane | 1.0 g, 52% | C(C)(C)(C)[Si](C)(C)OCCOC1=CC(=C(C=C1)[N+](=O)[O-])OC | C15H25NO5Si
